US08492549B2
(3-{(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}-phenyl)methanol
((R*)-3-[1-((R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl)piperidin-3-yl]benzoic acid methyl ester (54 mg, 0.147 mmol) was dissolved in dry THF (4 ml) and cooled to 0° C. LiAlH4 (26 mg, 0.680 mmol) was added and the mixture was stirred at RT for 2 h. Water (1 ml), 1 M NaOH (1 ml) and again water (1 ml) were added slowly. The mixture was filtered through Celite and evaporated. Flash chromatography, using a gradient of heptane/EtOAc, gave 3.5 mg of the title compound.

reactant | (R*)-3-[1-((R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl)piperidin-3-yl]benzoic acid methyl ester | 0.147 mmol, 54 mg | COC(C1=CC(=CC=C1)[C@@H]1CN(CCC1)C(=O)[C@H]1COC2=C(O1)C=CC=C2)=O | C22H23NO5
reactant | LiAlH4 | 0.680 mmol, 26 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 1 ml | O | H2O
reactant | NaOH | 1 M, 1 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (3-{(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}-phenyl)methanol | 3.5 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(C=CC2)CO | C21H25NO3
